US07176242B2
Step 1: Methyl 1-butylindoline-6-carboxylate
To a mixture of methyl 1-butyl-1H-indole-6-carboxylate, (2.1 g) in glacial acetic acid (25 mL) was added sodium cyanoborohydride (2.28 g). The mixture was heated at 40° C. for 3 h then cooled to room temperature, partitioned between water and ethyl acetate and the layers were separated. The organic layer was washed three times with brine, dried over anhydrous sodium sulfate and concentrated to give 1.64 g of the title compound: 1H NMR (CDCl3) δ 0.969, 1.43, 1.59, 2.99, 3.1, 3.4, 3.88, 7.07, 7.34.

reactant | methyl 1-butyl-1H-indole-6-carboxylate | 2.1 g | C(CCC)N1C=CC2=CC=C(C=C12)C(=O)OC | C14H17NO2
reactant | sodium cyanoborohydride | 2.28 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | Methyl 1-butylindoline-6-carboxylate | 1.64 g | C(CCC)N1CCC2=CC=C(C=C12)C(=O)OC | C14H19NO2
